US09126950B2
A solution of N-(3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)oxirane-2-carboxamide (0.160 g) in THF was cooled to 0° C. and TBAF was added. The reaction mixture was stirred at 0° C. for 1 hr. The reaction was monitored on TLC using CHCl3:methanol (9:1) as mobile phase. After completion, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and solvent was removed under reduced pressure. The crude material was purified by Combiflash eluted with 3.1% methanol in CHCl3 to give 0.051 g of N-(3-((5-fluoro-2-((4-(2-hydroxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)oxirane-2-carboxamide. 1H NMR: DMSO-d6 (400 MHz): 2.676-2.901 (q, 1H), 2.974-3.00 (q, 1H), 3.575-3.674 (m, 2H), 3.901-3.926 (m, 2H), 4.830-4.858 (t, 1H, J=5.6), 6.764-6.786 (d, 1H, J=8.8), 7.256-7.296 (d, 1H, J=8), 7.345-7.366 (d, 1H, J=8.4), 7.514-7.537 (d, 3H, J=9.2), 7.933 (s, 1H), 8.065-8.074 (d, 1H, J=3.6), 8.896 (s, 1H), 9.391 (s, 1H), 10.119 (s, 1H).

reactant | N-(3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)oxirane-2-carboxamide | 0.160 g | [Si](C)(C)(C(C)(C)C)OCCOC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC=1C=C(C=CC1)NC(=O)C1OC1)F | C27H34FN5O4Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | CHCl3 methanol | C(Cl)(Cl)Cl.CO
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | N-(3-((5-fluoro-2-((4-(2-hydroxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)oxirane-2-carboxamide | 0.051 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCO)NC=1C=C(C=CC1)NC(=O)C1OC1 | C21H20FN5O4
